US07888351B2
B) 3-(2-Oxo-2-thiomorpholin-4-yl-ethylsulfanyl)-propionic acid benzyl ester
To 3-Carboxymethylsulfanyl-propionic acid benzyl ester (763 mg, 3 mmol), HBTU (1.71 g, 4.5 mmol) and DIPEA (2.05 mL, 12 mmol) in DCM (10 mL) is added thiomorpholine (283 uL, 3 mmol). After stirring at rt during 2 h and evaporation of the solvent, the residue is dissolved with ethylacetate and washed with an aqueous 1N HCl solution and an aqueous saturated NaHCO3 solution. The organic phase is dried and evaporated to afford the title compound.

reactant | 3-Carboxymethylsulfanyl-propionic acid benzyl ester | 3 mmol, 763 mg | C(C1=CC=CC=C1)OC(CCSCC(=O)O)=O | C12H14O4S
reactant | HBTU | 4.5 mmol, 1.71 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 12 mmol, 2.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thiomorpholine | 3 mmol, 283 uL | N1CCSCC1 | C4H9NS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Oxo-2-thiomorpholin-4-yl-ethylsulfanyl)-propionic acid benzyl ester | C(C1=CC=CC=C1)OC(CCSCC(N1CCSCC1)=O)=O | C16H21NO3S2
